US07563908B2
(2-Mercapto-benzyl)-methyl-carbamic acid tert-butyl ester (1.85 g, 7.30 mmol) in dry toluene (15 mL) is placed in an Emrys Optimizer EXP 20 mL tube. Tris(dibenzylideneacetone) dipalladium (334 mg, 0.37 mmol), bis(2-diphenylphosphinophenyl)ether (197 mg, 0.37 mmol), tert-butyl-5-bromoindole-1-carboxylate (2.38 g, 8.03 mmol) and potassium tert-butoxide (860 mg, 7.67 mmol) are added. The reaction vessel is sealed and subjected to microwave heating at 160° C. for 15 minutes. Upon cooling the mixture is poured onto a plug of silica and the product is eluted with ethyl acetate-heptane (1:4). 0.67 g (20%) of 5-{2-[(tert-butoxycarbonyl-methyl-amino)-methyl]-phenylsulfanyl}-indole-1-carboxylic acid tert-butyl ester is isolated and used in the next step whithout further purification. 5-{2-[(tert-butoxycarbonyl-methyl-amino)-methyl]-phenylsulfanyl}-indole-1-carboxylic acid tert-butyl ester (0.67 g, 1.43 mmol) in methanol (15 mL) and diethyl ether saturated with hydrochloric acid (15 mL) is stirred at room temperature for 1 hour and concentrated in vacuo. Ice/water is added to the remanence and 28% aqueous NaOH is added until pH 9. The aqueous fraction is extracted with ethyl acetate (3×15 mL). Combined organic fractions are dried with MgSO4 and concentrated in vacuo. The product is purified by silica gel chromatography eluting with ethyl acetate-triethyl amine (100:4) followed by ethyl acetate-ethanol-triethyl amine (100:5:5). Upon evaporation of the volatiles, 40 mg (10%) of [2-(1H-indol-5-ylsulfanyl)-benzyl]-methyl-amine is isolated.

reactant | (2-Mercapto-benzyl)-methyl-carbamic acid tert-butyl ester | 7.30 mmol, 1.85 g | C(C)(C)(C)OC(N(C)CC1=C(C=CC=C1)S)=O | C13H19NO2S
reactant | bis(2-diphenylphosphinophenyl)ether | 0.37 mmol, 197 mg | C1(=CC=CC=C1)P(C1=C(C=CC=C1)OC1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H28OP2
reactant | tert-butyl-5-bromoindole-1-carboxylate | 8.03 mmol, 2.38 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)Br | C13H14BrNO2
reactant | potassium tert-butoxide | 7.67 mmol, 860 mg | CC(C)([O-])C.[K+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tris(dibenzylideneacetone) dipalladium | 0.37 mmol, 334 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 5-{2-[(tert-butoxycarbonyl-methyl-amino)-methyl]-phenylsulfanyl}-indole-1-carboxylic acid tert-butyl ester | 0.67 g, 20% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)SC1=C(C=CC=C1)CN(C)C(=O)OC(C)(C)C | C26H32N2O4S
